US05239052
To a stirred suspension of 4-aminophenyl disulfide (7.452 g, 30.0 mmol, technical grade) in water (250 mL) was added sulfuric acid (60 mL) slowly at 0° C., followed by the addition of a solution of sodium nitrite (4.5 g) in water (15 mL). The resulting yellow solution was stirred at 0° C. for 15 minutes and then added to a solution of sodium iodide (20 g) and iodine (20 g) in water (30 mL) slowly at 0° C. During the addition methylene chloride (about 50 mL) was added to keep the products in solution. After stirring at room temperature overnight, the mixture was diluted with methylene chloride (400 mL) and the two phases were partitioned. The organic phase was washed with concentrated sodium bisulfite solution, sodium bicarbonate solution and water, respectively. After drying over anhydrous sodium sulfate, the solvent was removed under vacuum. Purification of the residual yellow solid from ethanol afforded 4-iodophenyl disulfide as a yellow amorphous solid: 8.25 g (58.5%); mp 122°-123° C. (Lit. mp 124.5°-125.5° C.).

reactant | 4-aminophenyl disulfide | 30.0 mmol, 7.452 g | NC1=CC=C(C=C1)SSC1=CC=C(C=C1)N | C12H12N2S2
reactant | sulfuric acid | 60 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 4.5 g | N(=O)[O-].[Na+]
reactant | sodium iodide | 20 g | [I-].[Na+]
reactant | iodine | 20 g | II | I2
solvent | water | 250 mL | O | H2O
solvent | water | 15 mL | O | H2O
solvent | water | 30 mL | O | H2O
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 50 mL | C(Cl)Cl | CH2Cl2
product | 4-iodophenyl disulfide | IC1=CC=C(C=C1)SSC1=CC=C(C=C1)I | C12H8I2S2
